US07122359B2
Ethyl 3-O-benzoyl-2-O-benzyl-6-deoxy-1-thio-β-D-galactopyranoside (FIG. 3(b) (105)).
To a solution of ethyl 2-O-benzyl-6-deoxy-1-thio-β-D-galactopyranoside (1.03 g, 3.45 mmol) and DMAP (126 mg, 1.0 mmol) in 10 mL of dry CH2Cl2 at −30° C. was added Et3N (1.92 mL, 13.8 mmol). Benzoyl chloride (0.4 mL, 3.45 mmol) was added to this mixture in a dropwise fashion, and the stirred at −30° C. for 3 hr. The reaction was then quenched by the addition of MeOH (2 mL) and the mixture was gradually warmed to room temperature after which the resulting mixture was diluted with EtOAc (250 mL). The solution was washed with saturated NaHCO3 solution (2×20 mL), water (30 mL), dried over Na2SO4, concentrated and purified by flash chromatography (3:1 to 1:1 hexane/EtOAc) to give 1.12 g (80%) of the title product. [α]D=96.9° (c=1, CHCl3); 1H NMR (CDCl3) 8.09–8.03 (m, 2H), 7.56 (t, 1H, J=7.4 Hz), 7.49 (m, 2H), 7.22 (m, 2H), 7.18 (m, 3H), 5.28 (dd, 1H, J=3.0, 9.6 Hz), 4.87 (d, 1H, J=10.6 Hz), 4.67 (d, 1H, J=10.6 Hz), 4.56 (d, 1H, J=9.7 Hz), 4.12 (m, 1H), 3.85 (t, 1H, J=9.8 Hz), 3.80 (m, 1H), 2.81 (m, 2H), 1.93 (d, 1H, J=6.7 Hz), 1.36 (m, 6H); 13C NMR (CDCl3) 166.2, 138.0, 133.7, 130.2, 130.1, 128.9, 128.7, 128.6, 128.2, 85.7, 78.1, 77.6, 76.5, 76.0, 74.7, 70.9, 25.6, 16.9, 15.4; MS: calcd for C22H26O5SNa 425.1, found m/z 425.2 (M+Na).

reactant | ethyl 2-O-benzyl-6-deoxy-1-thio-β-D-galactopyranoside | 3.45 mmol, 1.03 g | C(C1=CC=CC=C1)O[C@H]1[C@H](SCC)O[C@@H]([C@@H]([C@@H]1O)O)C | C15H22O4S
reactant | Et3N | 13.8 mmol, 1.92 mL | CCN(CC)CC | C6H15N
reactant | Benzoyl chloride | 3.45 mmol, 0.4 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
catalyst | DMAP | 1.0 mmol, 126 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 3-O-benzoyl-2-O-benzyl-6-deoxy-1-thio-β-D-galactopyranoside | 1.12 g, 80% | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@H]([C@H](SCC)O[C@@H]([C@@H]1O)C)OCC1=CC=CC=C1 | C22H26O5S
